US07309699B2
6-(4-Bromo-phenyl)-4,5-dihydro-2H-pyridazin-3-one
4-(4-Bromo-phenyl)-4-oxo-butyric acid (Aldrich, 25.0 g, 97.3 mmol) was treated with NH2NH2—H2O (Aldrich, 55%, 9.1 mL, 156 mmol) in EtOH (Aldrich, 100 mL) at refluxing for 2 h. It was cooled down to ambient temperature and the white solid was filtered off to give the title compound (24.2 g, 98%). 1H NMR (CDCl3, 300 MHz) δ 2.50-2.76 (m, 2H), 2.85-3.09 (m, 2H), 7.43-7.71 (m, 4H), 8.55 (s, 1H) ppm. MS (DCl/NH3) m/z 253 (M+H)+, 255 (M+H)+, 270 (M+NH4)+, 272 (M+NH4)+.

reactant | 4-(4-Bromo-phenyl)-4-oxo-butyric acid | 97.3 mmol, 25.0 g | BrC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9BrO3
reactant | NH2NH2—H2O | 156 mmol, 9.1 mL | NN.O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 6-(4-Bromo-phenyl)-4,5-dihydro-2H-pyridazin-3-one | 24.2 g, 98% | BrC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H9BrN2O
